US07674789B2
2a) 1,1-Dimethylethyl {1-[4-(5-{[(cyclopropylmethyl)amino]carbonyl}-2-methylphenyl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]-4-piperidinyl}carbamate
To a solution of 3-{8-(2,6-Difluorophenyl)-2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methylbenzoic acid (250 mg) in methylenechloride (100 mL) were added EDC (100 mg), HOBt (70 mg) and cyclopropylmethylamine (110 uL). The reaction was stirred at r.t. overnight and evaporated in vacuo. Flash chromatography then provided the title compound as a white solid. LC-MS m/z 648 (M+H)+, 2.33 min (ret. time).

reactant | 3-{8-(2,6-Difluorophenyl)-2-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-4-methylbenzoic acid | 250 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)N2CCC(CC2)NC(=O)OC(C)(C)C)=O | C30H32F2N6O5
reactant | EDC | 100 mg
reactant | HOBt | 70 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylmethylamine | 110 uL | C1(CC1)CN | C4H9N
solvent | methylenechloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl {1-[4-(5-{[(cyclopropylmethyl)amino]carbonyl}-2-methylphenyl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]-4-piperidinyl}carbamate | C1(CC1)CNC(=O)C=1C=CC(=C(C1)C1=NC(=NC=2N(C(NCC21)=O)C2=C(C=CC=C2F)F)N2CCC(CC2)NC(OC(C)(C)C)=O)C | C34H39F2N7O4
